US07365085B2
a) 1-(3-Methoxy-phenyl)-pyrrolidine
To a stirring solution of 3-methoxy-phenylamine (571 mg, 4.6 mmol) in anhydrous toluene (40 ml) was added 1,4-dibromo-butane (1.0 g, 4.6 mmol) and diisopropylethylamine (0.59 g, 4.6 mmol). The resulting solution was heated to reflux for 24 hours and then concentrated in vacuo. The crude material was purified by column chromatography over silica gel (silica gel 60, EM science, 5% EtOAc:hexanes) and the title compound was obtained as an oil (754 mg, 92%). MS(ES) m/e 178.4 ([M+H]+).

reactant | 3-methoxy-phenylamine | 4.6 mmol, 571 mg | COC=1C=C(C=CC1)N | C7H9NO
reactant | 1,4-dibromo-butane | 4.6 mmol, 1.0 g | BrCCCCBr | C4H8Br2
reactant | diisopropylethylamine | 4.6 mmol, 0.59 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-Methoxy-phenyl)-pyrrolidine | COC=1C=C(C=CC1)N1CCCC1 | C11H15NO
